US07459477B2
Production of 2-(1,3-dimethylbutyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (Compound No. 5-11)
Aluminum lithium hydride (2 g, 52.7 mmol) was suspended in tetrahydrofuran (60 ml), followed by adding dropwise thereto 2-(1,3-dimethylbutyl)-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline (14 g, 40.5 mmol), and the resulting mixture was stirred at reflux temperature for 3 hours. Water was added to the reaction mixture in small portions under ice-cooling, followed by stirring for 10 minutes. Magnesium sulfate was added thereto and then stirred for 10 minutes. The reaction mixture was filtered through Celite and the filtrate was concentrated under reduced pressure to obtain 13 g of the desired compound.

reactant | Aluminum lithium hydride | 52.7 mmol, 2 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | 2-(1,3-dimethylbutyl)-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 40.5 mmol, 14 g | CC(CC(C)C)C1=C(N)C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F | C15H18F7N
reactant | Water | O | H2O
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(1,3-dimethylbutyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 13 g, Yield: 98% | CC(CC(C)C)C1=C(N)C=CC(=C1)C(C(F)(F)F)C(F)(F)F | C15H19F6N
